US07199147B2
Under a nitrogen atmosphere, 10%-Pd/C 50% wet (500 mg) and ammonium formate (2.0 g) were added to a solution of 1-benzylazepan-3-ol (1.072 g, 5.22 mmol) in ethanol (40 ml) at room temperature, and the resulting mixture was refluxed. After 1 hour, the reaction solution was filtered by the use of Celite and the resulting filtrate was concentrated under reduced pressure. The concentrate was dried under reduced pressure and to a solution of the resulting residue in dichloromethane (25 ml) was added di-t-butyl dicarbonate (1.32 ml, 5.74 mmol) at 0° C. After 30 minutes, the mixture thus obtained was warmed up to room temperature. After 2.5 hours, the mixture was poured into water (100 ml) and extracted with chloroform (50 ml×2), and then the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain tert-butyl 3-hydroxyazepane-1-carboxylate (946.7 mg, 84%).

reactant | ammonium formate | 2.0 g | C(=O)[O-].[NH4+]
reactant | 1-benzylazepan-3-ol | 5.22 mmol, 1.072 g | C(C1=CC=CC=C1)N1CC(CCCC1)O | C13H19NO
reactant | di-t-butyl dicarbonate | 5.74 mmol, 1.32 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 3-hydroxyazepane-1-carboxylate | 946.7 mg, 84% | OC1CN(CCCC1)C(=O)OC(C)(C)C | C11H21NO3
